US04517384
2-(Perfluorohexyl)ethanyl Vinyl Sulfone
2-(Perfluorohexyl)ethanyl 2-chloroethanyl sulfone (4.75 g, 10.0 mmole) was dissolved in 25 ml of THF at 30°, and triethylamine (1.52 g, 15.0 mmole) in 10 ml of THF was added in one minute. A white precipitate formed, and was filtered (1.37 g). The solvent was stripped carefully, as some foaming occurred.

reactant | 2-(Perfluorohexyl)ethanyl 2-chloroethanyl sulfone | 10.0 mmole, 4.75 g | ClCCS(=O)(=O)CCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H8ClF13O2S
reactant | triethylamine | 15.0 mmole, 1.52 g | C(C)N(CC)CC | C6H15N
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(Perfluorohexyl)ethanyl Vinyl Sulfone | C(=C)S(=O)(=O)CCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H7F13O2S
